US09255056B2
In a reactor equipped with a stirrer, a cooling condenser, a dropping funnel and a thermometer was placed a solution of methyl magnesium chloride (89.7 g:1.2 mol) in tetrahydrofuran (370.0 g), and stirred at a solution temperature of from 45 to 50° C. The 6-chloro-1-hexyne (116.6 g:1.0 mol) was dropwise added thereto at a reaction mixture temperature of from 50 to 60° C. over one hour, and then stirred at from 60 to 65° C. for 5 hours. A solution of triethyl orthoformate (177.8 g:1.2 mol) in toluene (120.0 g) was dropwise added thereto at a reaction mixture temperature of from 80 to 85° C. over 30 minutes, and then stirred at from 90 to 95° C. for 6 hours. After completion of the reaction was confirmed by gas chromatography, acetic acid (57.0 g), ammonium chloride (35.0 g) and water (400.0 g) were added to the reaction mixture. The organic phase separated from the aqueous phase was washed with an aqueous 1.0% sodium hydroxide solution (170.0 g). The organic phase was subjected to removal of the solvent under reduced pressure, and then the residue was distilled under reduced pressure to obtain 7-chloro-1,1-diethoxy-2-heptyne [bp: 100-104° C./0.13 KPa, 133.4 g, 0.61 mol]. [Yield: 61.0%]

reactant | methyl magnesium chloride | 1.2 mol, 89.7 g | C[Mg]Cl
reactant | 6-chloro-1-hexyne | 1.0 mol, 116.6 g | ClCCCCC#C | C6H9Cl
reactant | triethyl orthoformate | 1.2 mol, 177.8 g | C(OCC)(OCC)OCC | C7H16O3
reactant | ammonium chloride | 35.0 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 370.0 g | O1CCCC1 | C4H8O
solvent | toluene | 120.0 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 400.0 g | O | H2O
solvent | acetic acid | 57.0 g | C(C)(=O)O | C2H4O2
product | 7-chloro-1,1-diethoxy-2-heptyne | 0.61 mol, 133.4 g, Yield: 61.0% | ClCCCCC#CC(OCC)OCC | C11H19ClO2
